US08076329B2
Following the procedure described in example 36, but starting from 1-{3-[4′-(3-chloropropoxy)biphenyl-4-yloxy]propyl}piperidine (250 mg), pyrrolidine (138 mg) and potassium carbonate (360 mg) in N,N-dimethylformamide (2 mL) affords 90 mg of 1-(3-{[4′-(3-piperidinopropoxy)biphenyl-4-yl]oxy}propyl)pyrrolidine as white crystals melting at 105-108° C.

reactant | 1-{3-[4′-(3-chloropropoxy)biphenyl-4-yloxy]propyl}piperidine | 250 mg | ClCCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCCCC1 | C23H30ClNO2
reactant | pyrrolidine | 138 mg | N1CCCC1 | C4H9N
reactant | potassium carbonate | 360 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | 1-(3-{[4′-(3-piperidinopropoxy)biphenyl-4-yl]oxy}propyl)pyrrolidine | 90 mg | N1(CCCCC1)CCCOC1=CC=C(C=C1)C1=CC=C(C=C1)OCCCN1CCCC1 | C27H38N2O2
